US08541411B2
Preparation of methyl 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate
A solution of methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate prepared as described in Example 26, step d (500 mg, 1.8 mmol), 1-(bromomethyl)-2-methyl-3-(trifluoromethyl)benzene (483 mg, 1.9 mmol) and K2CO3 (497 mg, 3.6 mmol) in DMF (50 mL) was stirred at 80° C. for 3 h. The reaction mixture was cooled to rt and poured into water (50 mL), extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The resulting residue was purified by silica gel chromatography eluted with DCM:MeOH=50:1 to give the crude product (230 mg, yield 29%), as a white solid. 1H NMR (300 MHz, DMSO-d6): δ ppm 2.39 (s, 3H), 2.54 (s, 3H), 3.08 (t, 4H, J=4.8 Hz), 3.72 (t, 4H, J=4.8 Hz), 3.89 (s, 3H), 5.57 (s, 2H), 6.27 (d, 1H, J=7.5 Hz), 7.22 (t, 1H, J=7.5 Hz), 7.27 (d, 1H, J=2.4 Hz), 7.38 (d, 1H, J=2.4 Hz) 7.60 (d, 1H, J=7.5 Hz); LC-MS: m/e=448 [M+1]+

reactant | methyl 2-methyl-5-(4-morpholinyl)-1H-benzimidazole-7-carboxylate | CC1=NC2=C(N1)C(=CC(=C2)N2CCOCC2)C(=O)OC | C14H17N3O3
reactant | 1-(bromomethyl)-2-methyl-3-(trifluoromethyl)benzene | 1.9 mmol, 483 mg | BrCC1=C(C(=CC=C1)C(F)(F)F)C | C9H8BrF3
reactant | K2CO3 | 3.6 mmol, 497 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | methyl 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | 230 mg, yield 29% | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C(=O)OC)N2CCOCC2 | C23H24F3N3O3
